US07060836B2
tert-Butyl 3-[(acetylamino)methyl]-1-azetidinecarboxylate
Triethylamine (0.76 ml, 5.45 mmol) and acetic anhydride (0.43 ml, 4.56 mmol) were added to an ice-cooled solution of tert-butyl 3-(aminomethyl)-1-azetidinecarboxylate (J. Med. Chem. 2001; 44(1); 94) (850 mg, 4.56 mmol) in dichloromethane (50 ml), and the reaction stirred for 30 minutes. The solution was washed with water (50 ml), brine (50 ml), dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using ethyl acetate as eluant to afford the title compound as a yellow oil.

reactant | Triethylamine | 5.45 mmol, 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 4.56 mmol, 0.43 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | tert-butyl 3-(aminomethyl)-1-azetidinecarboxylate | 4.56 mmol, 850 mg | NCC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-Butyl 3-[(acetylamino)methyl]-1-azetidinecarboxylate | C(C)(=O)NCC1CN(C1)C(=O)OC(C)(C)C | C11H20N2O3
